US04448964
Similarly as in Reference Example 1, 5.40 g of 1-phenethyl-4-hydroxypiperidine and 2.65 g of diketene were reacted. The reaction mixture was concentrated, and then purified by silica gel column chromatography (eluent:chloroform:methanol=9:1 v/v), to obtain 6.95 g of acetoacetic acid-N-phenethyl-4-piperidinyl ester (yield: 91.3%).

reactant | 1-phenethyl-4-hydroxypiperidine | 5.40 g | C(CC1=CC=CC=C1)N1CCC(CC1)O | C13H19NO
reactant | diketene | 2.65 g | C=C1CC(=O)O1 | C4H4O2
product | acetoacetic acid-N-phenethyl-4-piperidinyl ester | 6.95 g, yield: 91.3% | C(CC1=CC=CC=C1)N1CCC(CC1)OC(CC(=O)C)=O | C17H23NO3
